US07531532B2
Morpholine-4-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide
4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine (89 mg) was dissolved in tetrahydrofuran (3 ml) under a nitrogen atmosphere, and then triethylamine (0.099 ml) and phenyl chloroformate (0.089 ml) were added dropwise thereto while cooling in an ice bath, followed by stirring at room temperature for 45 min. To the reaction mixture was added morpholine (0.249 ml), followed by stirring at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and a saturated aqueous solution of ammonium chloride. The organic layer was washed with a saturated aqueous solution of ammonium chloride, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated under a reduced pressure to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, eluent; hexane:ethyl acetate=1:1). Fractions containing the target compound was concentrated under a reduced pressure, and dried in vacuum to provide the titled compound (80.2 mg, 62.0%) as a colorless solid.

reactant | 4-Amino-6-(2-fluoro-4-nitrophenoxy)pyrimidine | 89 mg | NC1=NC=NC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C10H7FN4O3
reactant | triethylamine | 0.099 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.089 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | morpholine | 0.249 ml | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | Morpholine-4-carboxylic acid [6-(2-fluoro-4-nitrophenoxy)pyrimidin-4-yl]amide | 80.2 mg, 62.0% | FC1=C(OC2=CC(=NC=N2)NC(=O)N2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C15H14FN5O5
